US07378417B2
5-[3-(2,2,2-Trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-methanesulfonyl-phenyl)-amide
The title compound was prepared from 5-[3-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.10) and 3-methanesulfonyl-phenylamine [commercially available as hydrochloride] according to general procedure II. Yellow solid. MS (EI) 626.3 [M]; mp 227° C.

reactant | 5-[3-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC(COC=1C=C(C=CC1C(F)(F)F)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C(=O)O)(F)F | C17H8F9N3O3
reactant | 3-methanesulfonyl-phenylamine | CS(=O)(=O)C=1C=C(C=CC1)N | C7H9NO2S
reactant | hydrochloride | Cl | ClH
product | 5-[3-(2,2,2-Trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-methanesulfonyl-phenyl)-amide | CS(=O)(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC(=C(C=C2)C(F)(F)F)OCC(F)(F)F | C24H15F9N4O4S
